US07592463B2
1-[(1R)-4-Methylcyclohex-3-en-1-yl]-propan-1-one (Table 3, Entry 5):
Prepared according to general procedure B from ethyl vinyl ketone (70 μL, 0.70 mmol), isoprene (140 μL, 1.40 mmol), 70% aqueous perchloric acid (12.1 μL, 0.14 mmol) and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (38 mg, 0.14 mmol) neat for 3 days at −20° C. Then, another portion of isoprene (100 μL, 1.00 mmol) was added and the solution was allowed to stir for an additional 3 days. Purification by silica gel chromatography (10:1 pentane:ether) provided the title compound as a single regioisomer (as judged by GLC analysis) in 79% yield (84 mg, 0.55 mmol) and 85% ee. IR (film) 2967, 2928, 2836, 1710, 1452, 1413, 1377, 1343, 1217, 1149, 1126, 952.6, 915.1, 871.9, 800.0 cm−1; 1H NMR (300 MHz, CDCl3) δ 5.34 (m, 1H, C═CH), 2.46 (m, 3H, CH2CO and CHCO), 2.09 (m, 2H, CH2CH═C(CH3)), 1.94 (m, 2H, CH2C(CH3)═CH), 1.86 (m, 1H, one of CH2CH2CH), 1.54 (m, 1H, one of CH2CH2CH), 0.99 (dd, J=7.5, 7.5 Hz, 3H, CH2CH3); 13C NMR (75 MHz, CDCl3) δ 214.4, 133.8, 119.6, 46.6, 34.1, 29.9, 27.6, 25.4, 23.7, 8.1; HRMS (CI) exact mass calc'd for (C10H16O) requires m/z 152.1201, found m/z 152.1201. [α]D=+37.8 (c=1.0, CHCl3). Product ratios were determined by GLC analysis (100° C., 23 psi); (R) isomer tr=16.1 min, and (S) isomer tr=15.4 min.

reactant | ethyl vinyl ketone | 0.70 mmol, 70 μL | C(=C)C(=O)CC | C5H8O
reactant | isoprene | 1.40 mmol, 140 μL | C=CC(C)=C | C5H8
reactant | perchloric acid | 0.14 mmol, 12.1 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.14 mmol, 38 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
reactant | isoprene | 1.00 mmol, 100 μL | C=CC(C)=C | C5H8
product | 1-[(1R)-4-Methylcyclohex-3-en-1-yl]-propan-1-one | 79% yield | CC1=CC[C@@H](CC1)C(CC)=O | C10H16O
